US04255429
The starting material is prepared as follows: The mixture of 21.8 g of tetramethylenesuccinic anhydride (prepared from the diacid by refluxing with acetic anhydride), 12.1 g of 4-aminopyridine and 300 ml of xylene is refluxed on a water separator for 9 hours. The hot solution is filtered, cooled to 5° and the residue recrystallized from ethanol, to yield the 2-(4-pyridyl)-2-azaspiro[4,4]nonan-1,3-dione melting at 100°-103°.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-aminopyridine | 12.1 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | water | O | H2O
product | 2-(4-pyridyl)-2-azaspiro[4,4]nonan-1,3-dione | N1=CC=C(C=C1)N1C(C2(CC1=O)CCCC2)=O | C13H14N2O2
